US04906628
6-[4-(4-Oxo-1,4-dihydropyridin-1-yl)phenyl]-3(2H)-pyridazinone
A stirred mixture of 6-(4-aminophenyl)-3(2H)-pyridazinone hydrochloride (1.5 g), 4H-pyran-4-one (0.71 g), and water (20 ml), was heated under reflux for 2 hours. The pH of the hot solution was adjusted to 8 with aqueous ammonia and the mixture was cooled to give the crude product, 1.84 g, m.p. 338°-340° C. Recrystallisation from aqueous ethanol gave the title compound, 1.4 g, m.p. 339°-341° C.

reactant | 6-(4-aminophenyl)-3(2H)-pyridazinone hydrochloride | 1.5 g | Cl.NC1=CC=C(C=C1)C=1C=CC(NN1)=O
reactant | 4H-pyran-4-one | 0.71 g | O1C=CC(C=C1)=O | C5H4O2
reactant | ammonia | N | H3N
solvent | water | 20 ml | O | H2O
product | 6-[4-(4-Oxo-1,4-dihydropyridin-1-yl)phenyl]-3(2H)-pyridazinone | O=C1C=CN(C=C1)C1=CC=C(C=C1)C=1C=CC(NN1)=O | C15H11N3O2
